US05292760
A stirred, ice water chilled solution of 5.07 g of 2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine in 40 ml of pyridine was treated dropwise with 2.25 g of acetic anhydride. The solution was stirred with cooling for 15 minutes and then at room temperature for 3 hours. After standing overnight, the reaction mixture was decanted into water (200 ml), treated with dichloromethane (100 ml) and basified with 10% sodium hydroxide solution. The aqueous phase was extacted with dichloromethane (150 ml), and the combined organic phase was filtered and concentrated. The resulting solid was stirred with toluene and evaporated to dryness. Recrystallization from propionitrile (14 ml) afforded 3.0 g of N-acetyl-2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine, mp 176°-181.5° C.

reactant | 2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 5.07 g | NC1=C(C=CC=C1)CC(NC)C=1SC=CC1C | C14H18N2S
reactant | acetic anhydride | 2.25 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-acetyl-2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 3.0 g | C(C)(=O)N(C(CC1=C(C=CC=C1)N)C=1SC=CC1C)C | C16H20N2OS
